US07939527B2
Intermediate 41: Ethyl 1-[2-(4-hydroxyphenoxy)ethyl]piperidine-4-carboxylate
To a stirred suspension of 4-(2-bromo-ethoxy)-phenol (600 mg, 2.77 mmol) and ethyl isonipecotate (470 μL, 3.06 mmol) in CH3CN (12 mL) was added Et3N (768 μL, 5.54 mmol). The resultant mixture was stirred at rt overnight and then concentrated to afford the title compound, which was used immediately in the next step. MS (ESI): mass calcd. for C16H23NO4, 293.16; m/z found, 294.1 [M+H]+.

reactant | 4-(2-bromo-ethoxy)-phenol | 2.77 mmol, 600 mg | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
reactant | ethyl isonipecotate | 3.06 mmol, 470 μL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | Et3N | 5.54 mmol, 768 μL | CCN(CC)CC | C6H15N
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | Ethyl 1-[2-(4-hydroxyphenoxy)ethyl]piperidine-4-carboxylate | OC1=CC=C(OCCN2CCC(CC2)C(=O)OCC)C=C1 | C16H23NO4
